US04847251
4,5-Dihydro-5-methyl-6-[2-(methylaminocarbonylamino)-5-pyridyl]-3(2H)-pyridazinone
A mixture of 0.4 g. (2 mmole) 4,5-dihydro-5-methyl-6-(2-amino-5-pyridyl)-3(2H)-pyridazinone, 10 ml. dimethyl sulphoxide and 0.24 ml. (4 mmole) methyl isocyanate was stirred for 16 hours at ambient temperature, evaporated in a vacuum and the residue triturated with water. There were obtained 0.25 g. of the title compound (48% of theory); m.p. 257°-259° C.

reactant | 4,5-dihydro-5-methyl-6-(2-amino-5-pyridyl)-3(2H)-pyridazinone | 2 mmole | CC1CC(NN=C1C=1C=CC(=NC1)N)=O | C10H12N4O
reactant | methyl isocyanate | 4 mmole | CN=C=O | C2H3NO
solvent | dimethyl sulphoxide | CS(=O)C | C2H6OS
product | 4,5-Dihydro-5-methyl-6-[2-(methylaminocarbonylamino)-5-pyridyl]-3(2H)-pyridazinone | 48% | CC1CC(NN=C1C=1C=CC(=NC1)NC(=O)NC)=O | C12H15N5O2
